US08808728B2
In 5 L of a 10 mM phosphate buffer solution (pH 7.0) containing 1000 g of lactose and 825 g of CaCO3, 200 g of GRINGAMYL SURE BAKE 800 (manufactured by DANISCO, a recombinant enzyme of marine algae-origin hexose oxidase) was suspended to give a liquid reaction mixture. This liquid reaction mixture was allowed to react under stirring and aerating (blowing air at a rate of 0.5 times by volume as much as the liquid reaction mixture per minute) for 2 days at 30° C. Then, the liquid reaction mixture was centrifuged (10,000 rpm, 30 minutes at 4° C.) to thereby remove CaCO3. The obtained supernatant was supplied into an active carbon column (5 cm (diameter)×40 cm) having been equilibrated with deionized water and eluted with 1500 ml of deionized water. The eluate was collected, concentrated to 300 mL under reduced pressure and then precipitated by adding ethanol 2.3 times as much. The precipitate was dried under reduced pressure to thereby give 1020 g of calcium lactobionate.

reactant | phosphate | 10 mM, pH 7.0 | P(=O)([O-])([O-])[O-]
reactant | lactose | 1000 g | OC1[C@H](O)[C@@H](O)[C@H](O[C@H]2[C@H](O)[C@@H](O)[C@@H](O)[C@H](O2)CO)[C@H](O1)CO | C12H22O11
reactant | CaCO3 | 825 g | C(=O)([O-])[O-].[Ca+2]
reactant | hexose | C(C1C(C(C(C(O1)O)O)O)O)O | C6H12O6
solvent | water | O | H2O
product | calcium lactobionate | 1020 g | C([C@@H]1[C@@H]([C@@H]([C@H]([C@@H](O1)O[C@H]([C@@H](CO)O)[C@@H]([C@H](C(=O)[O-])O)O)O)O)O)O.C([C@@H]1[C@@H]([C@@H]([C@H]([C@@H](O1)O[C@H]([C@@H](CO)O)[C@@H]([C@H](C(=O)[O-])O)O)O)O)O)O.[Ca+2] | InChI=1S/2C12H22O12.Ca/c2*13-1-3(15)10(7(18)8(19)11(21)22)24-12-9(20)6(17)5(16)4(2-14)23-12;/h2*3-10,12-20H,1-2H2,(H,21,22);/q;;+2/p-2/t2*3-,4-,5+,6+,7-,8-,9-,10-,12+;/m11./s1
